US07238716B2
To a mixture of 1-benzyloxy-2-bromomethyl-4-methoxymethoxybenzene (0.30 g) and dimethyl sulfoxide (3 mL) was added an aqueous solution (0.3 mL) of sodium cyanide (0.05 g) at room temperature and the mixture was stirred for 13 hrs. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give 2-(2-benzyloxy-5-methoxymethoxyphenyl)acetonitrile as a colorless oil (0.23 g, 92%).

reactant | 1-benzyloxy-2-bromomethyl-4-methoxymethoxybenzene | 0.30 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCOC)CBr | C16H17BrO3
reactant | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
reactant | sodium cyanide | 0.3 mL, 0.05 g | [C-]#N.[Na+]
solvent | water | O | H2O
product | 2-(2-benzyloxy-5-methoxymethoxyphenyl)acetonitrile | 0.23 g, 92% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCOC)CC#N | C17H17NO3
